US07420001B2
3-Methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester (258 mg, 0.68 mmol) was mixed with K2CO3 (207 mg, 2.2 eq), pyridine-4-boronic acid (110 mg, 1.3 eq), Pd(Ph3)4 (43 mg, 0.05 eq), 3 mL of 1,2-dimethoxyethane and 0.5 mL of water. The mixture was heated and stirred in an 85° C. oil bath for 5 h. The reaction mixture was poured into water and was extracted with ethyl acetate. The organic extract was washed with water and dried over sodium sulfate. Removal of solvent gave the crude product, which was purified by column chromatography to give 156 mg of 3-methyl-4-pyridin-4-yl-benzofuran-2-carboxylic acid tert-butyl ester, obtained as white solid.

reactant | 3-Methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester | 0.68 mmol, 258 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C15H15F3O6S
reactant | K2CO3 | 207 mg, 2.2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | pyridine-4-boronic acid | 110 mg, 1.3 eq | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | water | 0.5 mL | O | H2O
product | 3-methyl-4-pyridin-4-yl-benzofuran-2-carboxylic acid tert-butyl ester | 156 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC=NC=C2 | C19H19NO3
